US08303844B2
44.0 g (about 81.6 mmol) of (3-ethoxy-5,6-difluoronaphthalen-2-yl)trimethylsilane are stirred at 100° C. for 20 h together with 26.3 g (0.17 mol) of caesium fluoride in 300 ml of DMF. After cooling, the mixture is diluted with water and extracted a number of times with MTBE. The combined organic phases are washed with water and sat. sodium chloride soln., and the solution is dried using sodium sulfate. The brown oil remaining after removal of the solvent is purified by column chromatography (SiO2, toluene:ethyl acetate=9:1), giving 7-ethoxy-1,2-difluoronaphthalene as a brown oil.

reactant | (3-ethoxy-5,6-difluoronaphthalen-2-yl)trimethylsilane | about 81.6 mmol, 44.0 g | C(C)OC=1C(=CC2=CC=C(C(=C2C1)F)F)[Si](C)(C)C | C15H18F2OSi
reactant | caesium fluoride | 0.17 mol, 26.3 g | [F-].[Cs+]
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 7-ethoxy-1,2-difluoronaphthalene | C(C)OC1=CC=C2C=CC(=C(C2=C1)F)F | C12H10F2O
